US09260416B2
Step 1: {6-[6-Chloro-7-fluoro-2-methyl-1-(1-propyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-pyridin-2-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 9, Step 4, using the following starting materials: [6-(6-chloro-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl)-pyridin-2-yl]-acetic acid ethyl ester and 4-bromo-1-propyl-1H-pyrazole.

reactant | [6-(6-chloro-7-fluoro-2-methyl-1H-indol-3-ylsulfanyl)-pyridin-2-yl]-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)SC1=C(NC2=C(C(=CC=C12)Cl)F)C)=O | C18H16ClFN2O2S
reactant | 4-bromo-1-propyl-1H-pyrazole | BrC=1C=NN(C1)CCC | C6H9BrN2
product | {6-[6-Chloro-7-fluoro-2-methyl-1-(1-propyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-pyridin-2-yl}-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)SC1=C(N(C2=C(C(=CC=C12)Cl)F)C=1C=NN(C1)CCC)C)=O | C24H24ClFN4O2S
